datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16]([O:17][O:18])([H:24])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[H:4][O:18][O:17][C:16]([C:15]([C:14]([H:19])([H:20])[H:21])([H:22])[H:23])([H:24])[H:25],85.60464
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6]([C:7]([S:8][H:18])[c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:7]([C:6]([H:15])([H:16])[H:17])([S:8][H:18])[c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23],165.896
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:15])[H:14])([O:6][O:7][H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3](=[O:4])[H:14])([O:6][O:7][H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:5][H:15],6.276
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([C:6](=[C:7]([C:8]([H:18])[H:19])[H:17])[H:16])([H:14])[H:15])[H:13])[H:9]>>[C:0](#[C:1][C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])=[C:7]([H:17])[C:8]1([H:18])[H:19])[H:9],111.378
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[H:20]>>[C:0](=[C:1]([C:2](=[C:3]([C:4]1([H:20])[C:5]([H:15])[C:6]([H:16])=[C:7]([H:17])[C:8]([H:18])=[C:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11],24.6856
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]=[C:14]([c:15]1[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]1[H:28])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13]=[C:12]([H:21])[H:22])([c:15]1[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]1[H:28])[H:23])[H:5],48.8691
[C:0]([C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])([H:10])[H:11])([H:8])[H:9]>>[C:0]([C:1]([C:2]1([H:12])[C:3]([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])([H:10])[H:11])([H:8])([H:9])[H:13],95.8136
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])=[C:13]([C:14]([H:22])([H:23])[H:24])[H:21])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:13]([C:11]([C:10](=[C:9]([H:15])[H:16])[H:17])[C:12]([H:18])([H:19])[H:20])([C:14]([H:22])([H:23])[H:24])[H:21])[H:4],28.6186
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])([H:19])[H:20],38.0744
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5]#[C:6][H:12])[C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21])[H:8])[H:7],36.0242
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3](=[O:4])[H:10])([H:5])[H:6].[C:11]([C:12](=[C:13]([H:17])[H:18])[C:14]([H:19])([H:20])[H:21])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([O:4])([H:10])[C:11]([C:12](=[C:13]([H:17])[H:18])[C:14]([H:19])([H:20])[H:21])([H:15])[H:16])([H:5])[H:6],26.48363216
[H:0].[O:1][O:2][H:3]>>[H:0][H:3].[O:1][O:2],-6.070984
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([O:7][O:8][H:19])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:11])[O:7]1.[O:8][H:19],44.7688
[C:0]([C:1]([O:2][H:8])([S:3][H:9])[H:7])([H:4])([H:5])[H:6].[C:10]([H:11])([H:12])[H:13]>>[C:0]([C:1]([O:2][H:8])[S:3][H:9])([H:4])([H:5])[H:6].[H:7][C:10]([H:11])([H:12])[H:13],15.5645
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11](=[S:12])[H:17])[H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:10]([C:9]([H:13])([H:14])[H:15])([C:11](=[S:12])[H:17])[H:16],68.6176
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([H:15])([H:16])[H:17])[C:6]([C:7]([C:8]([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])([H:20])[H:21])([H:18])[H:19])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[C:7]([H:20])([H:21])[C:8]1([C:9](=[C:10]([H:24])[H:25])[H:23])[H:22])[H:11],106.399
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[O:11]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5].[H:3][O:11],23.03292
